US06759554B2
N-(3,5-Dimethylphenyl)-2-methylindole
Using general procedure A, 2-methylindole (165 mg, 1.26 mmol)) was coupled with 5-iodo-m-xylene (150 μL, 1.04 mmol). The crude product was purified by flash chromatography on silica gel (2×15 cm; hexane-ether 40:1; 15 mL fractions). Fractions 4-9 provided 232 mg (95% yield) of the product as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 7.62−7.53 (m, 1H), 7.15−7.05 (m, 4H), 6.98 (s, 2H), 6.39 (s, 1H), 2.41 (s, 6H), 2.31 (d, J=1.0 Hz, 3H).

reactant | 2-methylindole | 1.26 mmol, 165 mg | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
product | N-(3,5-Dimethylphenyl)-2-methylindole | 232 mg, 95% yield | CC=1C=C(C=C(C1)C)N1C(=CC2=CC=CC=C12)C | C17H17N
